US07229999B2
5-(4-Chloro-phenyl)-6-cyclobutylmethoxy-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide
The title compound was synthesized in analogy to Example 75, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, cyclobutanemethanol, (4-chloro-phenyl)-boronic acid and (1R,2R)-2-amino-cyclohexanol hydrochloride as starting materials to yield 5-(4-chloro-phenyl)-6-cyclobutylmethoxy-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide. MS (ISP) 415.4 (M+H)+.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | cyclobutanemethanol | C1(CCC1)CO | C5H10O
reactant | (4-chloro-phenyl)-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | (1R,2R)-2-amino-cyclohexanol hydrochloride | Cl.N[C@H]1[C@@H](CCCC1)O
product | 5-(4-chloro-phenyl)-6-cyclobutylmethoxy-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)OCC1CCC1 | C23H27ClN2O3
